US05487845
1-(p-Ethoxyphenyl)-2-(3-fluoro-4-benzyloxyphenyl)ethene is obtained from p-ethoxystyrene and the benzyl ether of p-bromo-o-fluorophenol analogously to Example 213. Hydrogenation on Pd-C (5%) in THF gives 1-(p-ethoxyphenyl)-2-(4-hydroxy-3-fluorophenyl)ethane, of which 41.3 g together with 5.6 g of tetrabutylammonium hydrogensulphate are dissolved in 500 ml of THF at 40° C. 43 g of chlorodifluoromethane are introduced into this solution in such a way that a small amount condenses in the dry ice reflux condenser. 32 g of NaOH (50%) are then added dropwise with vigorous stirring in the course of 10 min. After stirring at 40° for a further hour, the mixture is cooled and decanted off from the oily precipitate formed. After evaporating the solvent, the residue is purified by chromatography and recrystallization. 1-(p-Ethoxyphenyl)-2-(3-fluoro-4-difluoromethoxyphenyl)ethane is obtained, C 43 I.

reactant | benzyl ether | C(C1=CC=CC=C1)OCC1=CC=CC=C1 | C14H14O
reactant | p-bromo-o-fluorophenol | BrC1=CC(=C(C=C1)O)F | C6H4BrFO
reactant | THF | C1CCOC1 | C4H8O
product | 1-(p-ethoxyphenyl)-2-(4-hydroxy-3-fluorophenyl)ethane | C(C)OC1=CC=C(C=C1)CCC1=CC(=C(C=C1)O)F | C16H17FO2
